### PR TITLE
[Merged by Bors] - feat(Data/Matrix/Vec): `star x.vec = (x.map star).vec`

### PR DESCRIPTION
**Pull request by themathqueen**
This adds `star x.vec = (x.map star).vec` and `xᴴᵀ = x.map star = xᵀᴴ`.

This also generalizes:
- `Matrix.vec_dotProduct_vec`: from `NonUnitalNonAssocSemiring` to `AddCommMonoid` and `Mul` as we only need matrix multiplication to be defined for this.
- `Matrix.star_vec_dotProduct_vec`: from `NonUnitalNonAssocSemiring` and `StarRing` to `AddCommMonoid`, `Mul`, and `Star`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by themathqueen** [comment]
easy

File: Mathlib/Data/Matrix/Vec.lean [hunk 1]
```diff
@@ -76,17 +76,20 @@ theorem vec_sum [AddCommMonoid R] (s : Finset ι) (A : ι → Matrix m n R) :
...
-theorem vec_dotProduct_vec [NonUnitalNonAssocSemiring R] [Fintype m] [Fintype n]
+theorem vec_dotProduct_vec [AddCommMonoid R] [Mul R] [Fintype m] [Fintype n]
     (A B : Matrix m n R) :
     vec A ⬝ᵥ vec B = (Aᵀ * B).trace := by
   simp_rw [Matrix.trace, Matrix.diag, Matrix.mul_apply, dotProduct, vec, transpose_apply,
     ← Finset.univ_product_univ, Finset.sum_product]
 
-theorem star_vec_dotProduct_vec [NonUnitalNonAssocSemiring R] [StarRing R] [Fintype m] [Fintype n]
+theorem star_vec [Star R] (x : Matrix m n R) :
+    star x.vec = (xᴴᵀ).vec :=
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Vec.lean]: I think it would be better to have
```suggestion
    star x.vec = (x.map star).vec :=
```

and then maybe have `xᴴᵀ = x.map star` and `xᵀᴴ = x.map star`  as separate lemmas.

File: Mathlib/Data/Matrix/Vec.lean [hunk 2]
```diff
@@ -76,17 +76,20 @@ theorem vec_sum [AddCommMonoid R] (s : Finset ι) (A : ι → Matrix m n R) :
   ext
   simp_rw [vec, Finset.sum_apply, vec, Matrix.sum_apply]
 
-theorem vec_dotProduct_vec [NonUnitalNonAssocSemiring R] [Fintype m] [Fintype n]
+theorem vec_dotProduct_vec [AddCommMonoid R] [Mul R] [Fintype m] [Fintype n]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Vec.lean:79]: Please mention this generalization in the commit message, and whether it's useful or just wondering you did because you could.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

Please update the title and description to reflect the final state before merging.

File: Mathlib/Data/Matrix/Vec.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Vec.lean:79]: Yeah sure, I did it because I could haha (we only need matrix multiplication to be defined for the proof to be valid).
